US08236954B2
1-[(3-fluoro-4-nitrophenyl)methyl]-4-methylpiperazine
N-methyl piperazine (1.97 mL, 17.8 mmol) was added dropwise to a solution of 3-fluoro-4-nitrobenzaldehyde (1.50 g, 8.88 mmol) and acetic acid (0.20 mL, 3.54 mmol) in toluene (8.4 mL) at room temperature. The reaction mixture was stirred for 1.5 h at room temperature before the addition of further toluene (3.15 mL) and sodium triacetoxyborohydride (2.97 g, 14.0 mmol). The reaction mixture was stirred for 70 min and then further sodium triacetoxyborohydride (0.40 g, 1.9 mmol) was added. The reaction mixture was stirred for 50 min, and then quenched by the addition of MeOH (2 mL) and saturated aqueous NaHCO3 (10 mL). The reaction mixture was stirred for 30 min. The phases were separated and the aqueous layer was extracted with toluene (2×20 mL, 1×10 mL). The combined organic extracts were concentrated under reduced pressure and purified by flash column chromatography (EtOAc:MeOH:NEt3 19:1:0.1) to give the title compound (1.85 g, 82%) as an orange oil.

reactant | N-methyl piperazine | 17.8 mmol, 1.97 mL | CN1CCNCC1 | C5H12N2
reactant | 3-fluoro-4-nitrobenzaldehyde | 8.88 mmol, 1.50 g | FC=1C=C(C=O)C=CC1[N+](=O)[O-] | C7H4FNO3
reactant | acetic acid | 3.54 mmol, 0.20 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 14.0 mmol, 2.97 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 1.9 mmol, 0.40 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | toluene | 8.4 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3.15 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[(3-fluoro-4-nitrophenyl)methyl]-4-methylpiperazine | 1.85 g, 82% | FC=1C=C(C=CC1[N+](=O)[O-])CN1CCN(CC1)C | C12H16FN3O2
